US08865699B2
1.1 3-bromo-N,N-bis(2-hydroxyethyl)benzenesulfonamide
To a solution of 3-bromobenzene sulfonyl chloride (0.25 mL, 1.73 mmol) in dioxane (2.0 mL) was added dropwise a solution of diethanolamine (0.547 g, 5.20 mmol) in dioxane (1.0 mL) over 1 min. The reaction mixture was stirred at room temperature (20° C.) for 16 h. After this time the mixture was poured onto brine (30 mL) and extracted with ethyl acetate (25 mL). The organic liquor was concentrated in vacuo to afford the title compound, (0.495 g, 88%). No further purification was required.

reactant | 3-bromobenzene sulfonyl chloride | 1.73 mmol, 0.25 mL | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | diethanolamine | 5.20 mmol, 0.547 g | N(CCO)CCO | C4H11NO2
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 3-bromo-N,N-bis(2-hydroxyethyl)benzenesulfonamide | 0.495 g, 88% | BrC=1C=C(C=CC1)S(=O)(=O)N(CCO)CCO | C10H14BrNO4S
